US03943176
2-(p-Chlorobenzylsulfinyl)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one
A mixture of 2-(p-chlorobenzylthio)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one (10.0 g., 0.0338 mole), 30 percent hydrogen peroxide (3.83 g., 0.0338 mole), and 350 ml. of glacial acetic acid was allowed to stand at room temperature for 23 hours. The solution was poured into ice water, and the precipitated pink solid was filtered and dried (10 g., m.p. 143.5°-145°C.).

reactant | 2-(p-chlorobenzylthio)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one | 0.0338 mole, 10.0 g | ClC1=CC=C(CSC=2C(CC(CC2O)(C)C)=O)C=C1 | C15H17ClO2S
reactant | hydrogen peroxide | 0.0338 mole, 3.83 g | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(p-Chlorobenzylsulfinyl)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one | ClC1=CC=C(CS(=O)C=2C(CC(CC2O)(C)C)=O)C=C1 | C15H17ClO3S
